* 7400 quad 2-input NAND (XSPICE digital) - multysm core pack
.subckt SN7400 a1 b1 y1 a2 b2 y2 gnd y3 a3 b3 y4 a4 b4 vcc
Rpwr vcc gnd 1e6
Ain [a1 b1 a2 b2 a3 b3 a4 b4] [da1 db1 da2 db2 da3 db3 da4 db4] ttl_in
Ag1 [da1 db1] dy1 ttl_nand
Ag2 [da2 db2] dy2 ttl_nand
Ag3 [da3 db3] dy3 ttl_nand
Ag4 [da4 db4] dy4 ttl_nand
Aout [dy1 dy2 dy3 dy4] [y1 y2 y3 y4] ttl_out
.model ttl_in adc_bridge(in_low=0.8 in_high=2.0)
.model ttl_out dac_bridge(out_low=0.2 out_high=3.4 out_undef=1.8)
.model ttl_nand d_nand(rise_delay=10n fall_delay=10n)
.ends SN7400
